US08703758B2
A) 2-aminobenzene-1,4-diol hydrochloride
A suspension of 2-nitrobenzene-1,4-diol (1.00 g) and 10% palladium carbon (containing water (50%), 1.00 g) in 1 M hydrochloric acid (13 mL) was stirred at room temperature for 5 hr under a hydrogen atmosphere. The reaction mixture was filtered, the filtrate was concentrated under reduced pressure, and the obtained solid was washed with ethyl acetate to give the title compound (949 mg).

reactant | 2-nitrobenzene-1,4-diol | 1.00 g | [N+](=O)([O-])C1=C(C=CC(=C1)O)O | C6H5NO4
reactant | hydrochloric acid | 1 M, 13 mL | Cl | ClH
catalyst | palladium carbon | 1.00 g | [C].[Pd]
product | 2-aminobenzene-1,4-diol hydrochloride | 949 mg | Cl.NC1=C(C=CC(=C1)O)O | InChI=1S/C6H7NO2.ClH/c7-5-3-4(8)1-2-6(5)9;/h1-3,8-9H,7H2;1H
